US04728663
N-[12-(1H-Imidazol-1-yl)dodecyl]benz[cd]indol-2-amine
A mixture of 2.5 g of 12-(1H-imidazol-1-yl)dodecanamine, 1.9 g of benz[cd]indole-2-thiol, 3.4 g of mercuric acetate and 400 ml of ethanol was reacted as described in Example 1. The crude product was purified by dissolving it in chloroform and chromatographing it on a silica gel column, eluting with 10% methanol in chloroform giving 490 mg of the desired product, mp 95°-97° C.

reactant | 12-(1H-imidazol-1-yl)dodecanamine | 2.5 g | N1(C=NC=C1)CCCCCCCCCCCCN | C15H29N3
reactant | benz[cd]indole-2-thiol | 1.9 g | N1=C(C2=C3C(C=CC=C13)=CC=C2)S | C11H7NS
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | N-[12-(1H-Imidazol-1-yl)dodecyl]benz[cd]indol-2-amine | N1(C=NC=C1)CCCCCCCCCCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | C26H34N4
